### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Height): Krull height theorem

### PR DESCRIPTION
**Pull request by xyzw12345**
In this PR, we continue to port @erdOne 's lean3 repository at [here](https://github.com/erdOne/lean-AG-morphisms), and (finally!) finished the result of Krull's height theorem. This PR is a refactor of #22403 where the code diverged from upstream due to newly merged PRs.

Co-authored-by:
Andrew Yang @erdOne 
Wanyi He @Blackfeather007 <2100017455@stu.pku.edu.cn>
Shouxin Zhang @ShouxinZhang <202013140018@nuist.edu.cn>
Jiedong Jiang @jjdishere <emailboxofjjd@163.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by meithecatte** [comment]
I think you should add this to `1000.yml`.

**Comment by xyzw12345** [comment]
@meithecatte What is `1000.yml`?

File: Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+/-!
+# Corollaries of Hopkins-Levitzki
+
+In this file, we prove several corollaries of the Hopkins-Levitzki theorem.
+-/
+variable {R : Type*} [CommRing R]
+
+theorem isArtinianRing_iff_krullDimLE_zero [IsNoetherianRing R] :
+    IsArtinianRing R ↔ Ring.KrullDimLE 0 R := by
+  rwa [isArtinianRing_iff_isNoetherianRing_krullDimLE_zero, and_iff_right]
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean:19]: This could go after `isArtinianRing_iff_isNoetherianRing_krullDimLE_zero`.

File: Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+
+lemma IsArtinianRing.eq_maximalIdeal_of_isPrime [IsArtinianRing R] [IsLocalRing R]
+    (I : Ideal R) [I.IsPrime] : I = IsLocalRing.maximalIdeal R := by
+  have : Ring.KrullDimLE 0 R := by rwa [← isArtinianRing_iff_krullDimLE_zero]
+  exact Ring.KrullDimLE.eq_maximalIdeal_of_isPrime I
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean:24]: I don't think we want this. `IsArtinianRing R` -> `Ring.KrullDimLE 0 R` should be an instance and this is exactly `Ring.KrullDimLE.eq_maximalIdeal_of_isPrime`.

File: Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+
+lemma IsArtinianRing.radical_eq_maximalIdeal [IsArtinianRing R] [IsLocalRing R]
+    (I : Ideal R) (hI : I ≠ ⊤) : I.radical = IsLocalRing.maximalIdeal R := by
+  rw [Ideal.radical_eq_sInf]
+  refine (sInf_le ?_).antisymm (le_sInf ?_)
+  · exact ⟨IsLocalRing.le_maximalIdeal hI, inferInstance⟩
+  · rintro J ⟨h₁, h₂⟩
+    exact (eq_maximalIdeal_of_isPrime J).ge
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean:32]: Similarly this is just `Ring.KrullDimLE.nilradical_eq_maximalIdeal` (or some generalization of that) and should go near that and assume `Ring.KrullDimLE 0 R` instead. Though I'm guessing the former is enough for the application.

File: Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+
+lemma isArtinianRing_iff_isNilpotent_maximalIdeal [IsNoetherianRing R] [IsLocalRing R]:
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/HopkinsLevitzki.lean:34]:
```suggestion
lemma isArtinianRing_iff_isNilpotent_maximalIdeal [IsNoetherianRing R] [IsLocalRing R] :
```

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 5]
```diff
@@ -0,0 +1,300 @@
...
+* `Ideal.height_le_spanRank_toENat` : In a commutative Noetherian ring `R`, the height of a
+  (finitely-generated) ideal is smaller than or equal to the minimum number of generators for
+  this ideal.
+
+* `Ideal.height_le_iff_exists_minimal_primes` : In a commutative Noetherian ring `R`, a prime ideal
+  `p` has height no greater than `n` if and only if it is a minimal ideal over some ideal generated
+  by no more than `n` elements.
+-/
+
+variable {R : Type*} [CommRing R]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:37]: `[IsNoetherianRing R]` could be a global assumption.

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 6]
```diff
@@ -0,0 +1,300 @@
...
+    refine Ideal.mul_mem_mul ?_ (Submodule.IsPrincipal.generator_mem _)
+    rwa [Ideal.mem_comap, f.map_add, smul_eq_mul, f.map_mul, Ideal.add_mem_iff_right _
+      (Ideal.pow_le_pow_right n.le_succ hy), mul_comm, Ideal.unit_mul_mem_iff_mem] at hx
+    refine IsLocalization.map_units _ ⟨_,
+      show Submodule.IsPrincipal.generator I ∈ q.primeCompl from ?_⟩
+    show Submodule.IsPrincipal.generator I ∉ (↑q : Set R)
+    rw [← Set.singleton_subset_iff, ← Ideal.span_le, Ideal.span_singleton_generator]
+    exact fun e => h₂.not_le (hp.2 ⟨h₁, e⟩ h₂.le)
+
+/-- Krull's Hauptidealsatz: In a commutative Noetherian ring `R`,
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:100]:
```suggestion
/-- **Krull's Hauptidealsatz**: In a commutative Noetherian ring `R`,
```

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 7]
```diff
@@ -0,0 +1,300 @@
...
+import Mathlib.RingTheory.Localization.Submodule
+import Mathlib.RingTheory.Finiteness.Ideal
+import Mathlib.Order.KrullDimension
+import Mathlib.Order.Atoms
+import Mathlib.RingTheory.KrullDimension.Zero
+import Mathlib.RingTheory.Nakayama
+import Mathlib.RingTheory.Artinian.HopkinsLevitzki
+import Mathlib.RingTheory.Artinian.Ring
+/-!
+# Krull Height Theorem
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:16]:
```suggestion
# Krull's Height Theorem
```
Maybe the file should be `KrullsHeightTheorem` too?

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 8]
```diff
@@ -0,0 +1,300 @@
...
+    let f := algebraMap R (Localization.AtPrime p)
+    have := Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes_of_isLocalRing
+      (I.map f) ⟨⟨f (Submodule.IsPrincipal.generator I), ?_⟩⟩ ?_
+    { rwa [← IsLocalization.height_comap p.primeCompl,
+        Localization.AtPrime.comap_maximalIdeal] at this }
+    { rw [← Set.image_singleton, ← Ideal.span, ← Ideal.map_span, Ideal.span_singleton_generator I] }
+    { rwa [IsLocalization.minimalPrimes_map p.primeCompl (Localization.AtPrime p) I,
+        Set.mem_preimage, Localization.AtPrime.comap_maximalIdeal] }
+
+set_option linter.style.multiGoal false in
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:118]: This shouldn't be here. Please refactor the proof instead of disabling this linter.

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 9]
```diff
@@ -0,0 +1,300 @@
...
+/-- Krull's height theorem : In a commutative Noetherian ring `R`,
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:119]:
```suggestion
/-- **Krull's height theorem** : In a commutative Noetherian ring `R`,
```

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 10]
```diff
@@ -0,0 +1,300 @@
...
+  any prime ideal that is minimal over an ideal generated by `n` elements has height at most `n`. -/
+lemma Ideal.height_le_spanRank_toENat_of_mem_minimal_primes [IsNoetherianRing R]
+    (I : Ideal R) (p : Ideal R) (hp : p ∈ I.minimalPrimes) :
+    p.height ≤ Cardinal.toENat I.spanRank := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:123]:
```suggestion
    p.height ≤ I.spanRank.toENat := by
```
(not tested)

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 11]
```diff
@@ -0,0 +1,300 @@
...
+    · convert Finset.card_image_le (s := Finset.univ) (f := y) <;> simp
+    · apply Nat.le_of_lt_succ; show hs.toFinset.card + 1 ≤ n + 1
+      rw [← Finset.card_insert_of_not_mem (a := x)]; swap
+      · simpa
+      · simpa using hn
+
+/-- In a commutative Noetherian ring `R`, the height of a (finitely-generated) ideal is smaller
+than or equal to the minimum number of generators for this ideal. -/
+lemma Ideal.height_le_spanRank_toENat [IsNoetherianRing R] (I : Ideal R) (hI : I ≠ ⊤) :
+    I.height ≤ Cardinal.toENat I.spanRank := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:260]:
```suggestion
    I.height ≤ I.spanRank.toENat := by
```

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 12]
```diff
@@ -0,0 +1,300 @@
...
+  convert (I.height_le_spanRank_toENat_of_mem_minimal_primes J hJ)
+  exact Eq.symm (@height_eq_primeHeight _ _ J hJ.1.1)
+
+lemma Ideal.height_le_spanRank [IsNoetherianRing R] (I : Ideal R) (hI : I ≠ ⊤) :
+    I.height ≤ I.spanRank := by
+  apply le_trans (b := ((Cardinal.toENat I.spanRank) : Cardinal))
+  · norm_cast; exact I.height_le_spanRank_toENat hI
+  · exact Cardinal.ofENat_toENat_le (Submodule.spanRank I)
+
+instance Ideal.finite_height_of_is_noetherian_ring [IsNoetherianRing R] (I : Ideal R) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:272]:
```suggestion
instance Ideal.finiteHeight_of_isNoetherianRing [IsNoetherianRing R] (I : Ideal R) :
```

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean [hunk 13]
```diff
@@ -0,0 +1,300 @@
...
+  rw [ENat.coe_toNat_eq_self.mpr (Ideal.height_ne_top hI)] at hJ₃
+  refine ⟨J, hJ₁, le_antisymm ?_ (le_trans ?_ (J.height_le_spanRank ?_)),
+    le_antisymm (Ideal.height_mono hJ₁) hJ₃⟩
+  · convert hJ₂; exact Cardinal.ofENat_eq_nat.mpr (ENat.coe_toNat (I.height_ne_top hI)).symm
+  · exact Cardinal.ofENat_le_ofENat_of_le hJ₃
+  · rintro rfl; exact hI (top_le_iff.mp hJ₁)
+
+/-- In a commutative Noetherian ring `R`, a prime ideal `p` has height no greater than `n` if and
+only if it is a minimal ideal over some ideal generated by no more than `n` elements. -/
+lemma Ideal.height_le_iff_exists_minimal_primes [IsNoetherianRing R] (p : Ideal R) [p.IsPrime]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:291]:
```suggestion
lemma Ideal.height_le_iff_exists_minimalPrimes [IsNoetherianRing R] (p : Ideal R) [p.IsPrime]
```

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean (hunk 11 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean:260]: Can you add the `spanFinrank` version of this?

**Comment by xyzw12345** [comment]
> > @meithecatte What is `1000.yml`?
> 
> https://github.com/leanprover-community/mathlib4/blob/master/docs/1000.yaml

Thanks! Added now!

File: Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean (hunk 11 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/KrullHeightTheorem.lean]: Added now!

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 14]
```diff
@@ -99,6 +99,14 @@ theorem Ring.KrullDimLE.eq_maximalIdeal_of_isPrime [IsLocalRing R] (J : Ideal R)
   (((Ring.krullDimLE_zero_and_isLocalRing_tfae R).out 0 1 rfl rfl).mp ⟨‹_›, ‹_›⟩).unique
     ‹_› inferInstance
 
+lemma Ring.KrullDimLE.radical_eq_maximalIdeal [IsLocalRing R] (I : Ideal R) (hI : I ≠ ⊤) :
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:102]: I wonder if this means that the `eq_maximalIdeal_of_isPrime` can be generalized to primary ideals.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 15]
```diff
@@ -0,0 +1,304 @@
...
+    I.height ≤ I.spanRank := by
+  apply le_trans (b := ((Cardinal.toENat I.spanRank) : Cardinal))
+  · norm_cast; exact I.height_le_spanRank_toENat hI
+  · exact Cardinal.ofENat_toENat_le (Submodule.spanRank I)
+
+instance Ideal.finiteHeight_of_isNoetherianRing  (I : Ideal R) :
+    I.FiniteHeight := by
+  rw [Ideal.finiteHeight_iff_lt, Classical.or_iff_not_imp_left]
+  intro h; have := Ideal.height_le_spanRank_toENat I h
+  exact lt_of_le_of_lt this (by simpa using (IsNoetherian.noetherian I))
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:280]: This follows from the spanFinrank lemma more easily I think.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 16]
```diff
@@ -0,0 +1,304 @@
...
+
+/-- **Krull's height theorem** : In a commutative Noetherian ring `R`,
+  any prime ideal that is minimal over an ideal generated by `n` elements has height at most `n`. -/
+lemma Ideal.height_le_spanRank_toENat_of_mem_minimal_primes
+    (I : Ideal R) (p : Ideal R) (hp : p ∈ I.minimalPrimes) :
+    p.height ≤ I.spanRank.toENat := by
+  classical
+  rw [I.spanRank_toENat_eq_iInf_finset_card]
+  apply le_iInf; rintro ⟨s, hs, hs'⟩
+  induction' hn : hs.toFinset.card using Nat.strong_induction_on with n H generalizing R
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:126]: Can you change this into `induction`? Thanks.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 17]
```diff
@@ -0,0 +1,304 @@
...
+  have := hp.1.1; subst hs'
+  cases n
+  · rw [CharP.cast_eq_zero, nonpos_iff_eq_zero, @Ideal.height_eq_primeHeight _ _ p hp.1.1,
+      @Ideal.primeHeight_eq_zero_iff, minimalPrimes]
+    simp_all
+  · rename ℕ => n
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:132]: This might be code smell. Can we avoid this?

**Review by erdOne — COMMENTED** [review]
Some proofs are still quite long and it would be nice if we could simplify them or split them up. Maybe you have some ideas as to how? Or I'll try to do this when I get access to a computer.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean (hunk 17 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean]: I've removed the `cases` now.

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 14 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:102]: We know that every element in a 0-dimensional local ring is either a unit or a nilpotent. So, it seems that every ideal `I ≠ ⊤` is primary and therefore the theorem cannot be generalized to primary ideals?

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 18]
```diff
@@ -0,0 +1,300 @@
...
+    refine IsLocalization.map_units _ ⟨_,
+      show Submodule.IsPrincipal.generator I ∈ q.primeCompl from ?_⟩
+    show Submodule.IsPrincipal.generator I ∉ (↑q : Set R)
+    rw [← Set.singleton_subset_iff, ← Ideal.span_le, Ideal.span_singleton_generator]
+    exact fun e ↦ h₂.not_le (hp.2 ⟨h₁, e⟩ h₂.le)
+
+/-- **Krull's Hauptidealsatz**: In a commutative Noetherian ring `R`,
+  any prime ideal that is minimal over a principal ideal has height at most 1. -/
+lemma Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes
+    (I : Ideal R) (hI : I.IsPrincipal) (p : Ideal R) (hp : p ∈ I.minimalPrimes) : p.height ≤ 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:103]:
```suggestion
    (I : Ideal R) [I.IsPrincipal] (p : Ideal R) (hp : p ∈ I.minimalPrimes) : p.height ≤ 1 := by
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 19]
```diff
@@ -0,0 +1,300 @@
...
+  have := hp.1.1
+  let f := algebraMap R (Localization.AtPrime p)
+  have := Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes_of_isLocalRing
+    (I.map f) ⟨⟨f (Submodule.IsPrincipal.generator I), ?_⟩⟩ ?_
+  · rwa [← IsLocalization.height_comap p.primeCompl,
+     Localization.AtPrime.comap_maximalIdeal] at this
+  · rw [← Set.image_singleton, ← Ideal.span, ← Ideal.map_span, Ideal.span_singleton_generator I]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:110]: This is not needed if you add
```
instance {R S : Type*} [Semiring R] [Semiring S] (f : R →+* S) (I : Ideal R) [I.IsPrincipal] :
    (I.map f).IsPrincipal :=
  ⟨f (Submodule.IsPrincipal.generator I), by
    rw [← Ideal.span, ← Set.image_singleton, ← Ideal.map_span, Ideal.span_singleton_generator]⟩
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 20]
```diff
@@ -0,0 +1,300 @@
...
+  rw [I.spanRank_toENat_eq_iInf_finset_card]
+  apply le_iInf
+  rintro ⟨s, hs, hs'⟩
+  induction hn : hs.toFinset.card using Nat.strong_induction_on generalizing R with
+  | h n H =>
+    have := hp.1.1
+    subst hs'
+    cases n with
+    | zero =>
+      rw [CharP.cast_eq_zero, nonpos_iff_eq_zero, @Ideal.height_eq_primeHeight _ _ p hp.1.1,
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:129]:
```suggestion
      rw [CharP.cast_eq_zero, nonpos_iff_eq_zero, Ideal.height_eq_primeHeight p,
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 21]
```diff
@@ -0,0 +1,300 @@
...
+        Ideal.primeHeight_eq_zero_iff, minimalPrimes]
+      simp_all
+    | succ n =>
+      rw [← @Localization.AtPrime.comap_maximalIdeal _ _ p,
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:133]:
```suggestion
      rw [← Localization.AtPrime.comap_maximalIdeal (I := p),
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 22]
```diff
@@ -0,0 +1,300 @@
...
+        IsLocalization.height_comap p.primeCompl]
+      rw [← @Localization.AtPrime.comap_maximalIdeal _ _ p, ← Set.mem_preimage,
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:135]:
```suggestion
      rw [← Localization.AtPrime.comap_maximalIdeal (I := p), ← Set.mem_preimage,
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 23]
```diff
@@ -0,0 +1,300 @@
...
+        rw [Set.insert_diff_singleton, Set.insert_eq_of_mem hxt]
+      have : p' ≤ (q ⊔ Ideal.span {x}).radical := by
+        rw [Ideal.radical_eq_sInf, le_sInf_iff]
+        rintro J ⟨hJ, hJ'⟩
+        by_contra h
+        refine hq' J hJ' (lt_of_le_of_ne (le_sup_left.trans hJ) ?_)
+          (lt_of_le_not_le (IsLocalRing.le_maximalIdeal hJ'.ne_top) h)
+        rintro rfl
+        exact hxq <| hJ <| Ideal.mem_sup_right <| Submodule.mem_span_singleton_self _
+      have h : ∀ z ∈ s, z ∈ (q ⊔ Ideal.span {x}).radical := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:165]:
```suggestion
      have h : s ⊆ (q ⊔ Ideal.span {x}).radical := by
```

**Review by erdOne — COMMENTED** [review]
Some superficial improvements

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 24]
```diff
@@ -0,0 +1,292 @@
...
+  any prime ideal that is minimal over a principal ideal has height at most 1. -/
+lemma Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes
+    (I : Ideal R) [I.IsPrincipal] (p : Ideal R) (hp : p ∈ I.minimalPrimes) : p.height ≤ 1 := by
+  have := hp.1.1
+  let f := algebraMap R (Localization.AtPrime p)
+  have := @Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes_of_isLocalRing _ _ _ _
+    (I.map f) ⟨⟨f (Submodule.IsPrincipal.generator I), ?_⟩⟩ ?_
+  · rwa [← IsLocalization.height_comap p.primeCompl,
+     Localization.AtPrime.comap_maximalIdeal] at this
+  · rw [← Set.image_singleton, ← Ideal.span, ← Ideal.map_span, Ideal.span_singleton_generator I]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:104]:
```suggestion
  have := Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes_of_isLocalRing (I.map f) ?_
  · rwa [← IsLocalization.height_comap p.primeCompl,
     Localization.AtPrime.comap_maximalIdeal] at this
```
(not tested)

File: Mathlib/RingTheory/Artinian/Ring.lean [hunk 25]
```diff
@@ -116,3 +118,12 @@ instance : IsArtinianRing (Localization S) :=
 end Localization
 
 end IsArtinianRing
+
+lemma isArtinianRing_iff_isNilpotent_maximalIdeal (R : Type*) [CommRing R] [IsNoetherianRing R]
+    [IsLocalRing R] : IsArtinianRing R ↔ IsNilpotent (IsLocalRing.maximalIdeal R) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian/Ring.lean:123]: Maybe you can avoid the large-import by moving this into HopkinsLevitzki?

File: Mathlib/RingTheory/Finiteness/Ideal.lean [hunk 26]
```diff
@@ -88,4 +89,9 @@ lemma exists_pow_le_of_le_radical_of_fg {R : Type*} [CommSemiring R] {I J : Idea
     use n₁ + n₂
     exact Ideal.sup_pow_add_le_pow_sup_pow.trans (sup_le hn₁ hn₂)
 
+lemma isNilpotent_iff_le_nilradical {R : Type*} [CommSemiring R] {I : Ideal R} (hI : I.FG) :
+  IsNilpotent I ↔ I ≤ nilradical R :=
+⟨fun ⟨n, hn⟩ _ hx => ⟨n, hn ▸ Ideal.pow_mem_pow hx n⟩,
+  fun h => let ⟨n, hn⟩ := exists_pow_le_of_le_radical_of_fg h hI; ⟨n, le_bot_iff.mp hn⟩⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Finiteness/Ideal.lean:95]:
```suggestion
lemma isNilpotent_iff_le_nilradical {R : Type*} [CommSemiring R] {I : Ideal R} (hI : I.FG) :
    IsNilpotent I ↔ I ≤ nilradical R :=
  ⟨fun ⟨n, hn⟩ _ hx ↦ ⟨n, hn ▸ Ideal.pow_mem_pow hx n⟩,
    fun h ↦ let ⟨n, hn⟩ := exists_pow_le_of_le_radical_of_fg h hI; ⟨n, le_bot_iff.mp hn⟩⟩
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 27]
```diff
@@ -209,6 +209,30 @@ theorem Ideal.primeHeight_eq_ringKrullDim_iff [FiniteRingKrullDim R] [IsLocalRin
...
+  constructor
+  · intro h q hq hqp; rw [Ideal.height_eq_primeHeight, Ideal.primeHeight] at h ⊢
+    apply (Order.height_le_coe_iff (x := (⟨p, ‹_›⟩ : (PrimeSpectrum R))) (n := n)).mp <;> assumption
+  · intro h; rw [Ideal.height_eq_primeHeight, Ideal.primeHeight]
+    apply Order.height_le_coe_iff.mpr; rintro ⟨q, hq⟩ hqp
+    convert h q hq hqp; rw [Ideal.height_eq_primeHeight, Ideal.primeHeight]
+
+lemma Ideal.height_le_iff_covBy {p : Ideal R} {n : ℕ} [p.IsPrime] [IsNoetherianRing R] :
+  p.height ≤ n ↔ ∀ q : Ideal R, q.IsPrime → q < p →
+    (∀ q' : Ideal R, q'.IsPrime → q < q' → ¬ q' < p) → q.height < n := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/Height.lean:223]:
```suggestion
lemma Ideal.height_le_iff_covBy {p : Ideal R} {n : ℕ} [p.IsPrime] [IsNoetherianRing R] :
    p.height ≤ n ↔ ∀ q : Ideal R, q.IsPrime → q < p →
      (∀ q' : Ideal R, q'.IsPrime → q < q' → ¬ q' < p) → q.height < n := by
```

File: Mathlib/RingTheory/Finiteness/Ideal.lean (hunk 26 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Finiteness/Ideal.lean:95]: #find_home says this can go into Mathlib.RingTheory.Noetherian.Nilpotent (which would eliminate the large-import), and indeed the only lemma there is a consequence of this. It may be a good idea to rename the file (Finiteness.Nilpotent?) but it's also acceptable as is.

File: Mathlib/RingTheory/Artinian/Ring.lean (hunk 25 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Artinian/Ring.lean]: Sure, that sounds a nice idea

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean
Comment (Parcly-Taxel) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:1]: Could this file be just `Krull.lean`?

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 28]
```diff
@@ -0,0 +1,286 @@
...
+    le_antisymm (Ideal.height_mono hJ₁) hJ₃⟩
+  · convert hJ₂
+    exact Cardinal.ofENat_eq_nat.mpr (ENat.coe_toNat (I.height_ne_top hI)).symm
+  · exact Cardinal.ofENat_le_ofENat_of_le hJ₃
+  · rintro rfl
+    exact hI (top_le_iff.mp hJ₁)
+
+/-- In a commutative Noetherian ring `R`, a prime ideal `p` has height no greater than `n` if and
+only if it is a minimal ideal over some ideal generated by no more than `n` elements. -/
+lemma Ideal.height_le_iff_exists_minimalPrimes  (p : Ideal R) [p.IsPrime]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:276]:
```suggestion
lemma Ideal.height_le_iff_exists_minimalPrimes (p : Ideal R) [p.IsPrime]
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 29]
```diff
@@ -0,0 +1,286 @@
...
+  apply le_trans (b := ((Cardinal.toENat I.spanRank) : Cardinal))
+  · norm_cast
+    exact I.height_le_spanRank_toENat hI
+  · exact Cardinal.ofENat_toENat_le (Submodule.spanRank I)
+
+instance Ideal.finiteHeight_of_isNoetherianRing (I : Ideal R) :
+    I.FiniteHeight := Ideal.finiteHeight_iff_lt.mpr <| Or.elim (em (I = ⊤)) Or.inl <|
+  fun h ↦ Or.inr <| (lt_of_le_of_lt (I.height_le_spanFinrank h) (ENat.coe_lt_top _))
+
+lemma exists_spanRank_eq_and_height_eq  (I : Ideal R) (hI : I ≠ ⊤) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:261]:
```suggestion
lemma exists_spanRank_eq_and_height_eq (I : Ideal R) (hI : I ≠ ⊤) :
```

**Review by erdOne — APPROVED** [review]
LGTM!
Thanks a lot!

Since I was the original author of some of the materials, I'll wait for someone else to give a review.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:1]: I prefer not. Krull has a lot more contributions than this.

File: Mathlib/RingTheory/Noetherian/Nilpotent.lean [hunk 30]
```diff
@@ -22,3 +22,8 @@ theorem IsNoetherianRing.isNilpotent_nilradical (R : Type*) [CommSemiring R] [Is
     IsNilpotent (nilradical R) := by
   obtain ⟨n, hn⟩ := Ideal.exists_radical_pow_le_of_fg (⊥ : Ideal R) (IsNoetherian.noetherian _)
   exact ⟨n, eq_bot_iff.mpr hn⟩
+
+lemma Ideal.isNilpotent_iff_le_nilradical {R : Type*} [CommSemiring R] {I : Ideal R} (hI : I.FG) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Noetherian/Nilpotent.lean:26]:
```suggestion
lemma Ideal.FG.isNilpotent_iff_le_nilradical {R : Type*} [CommSemiring R] {I : Ideal R} (hI : I.FG) :
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 31]
```diff
@@ -0,0 +1,286 @@
...
+  exact this ▸ height_le_spanRank_toENat I hI
+
+lemma Ideal.height_le_spanRank (I : Ideal R) (hI : I ≠ ⊤) :
+    I.height ≤ I.spanRank := by
+  apply le_trans (b := ((Cardinal.toENat I.spanRank) : Cardinal))
+  · norm_cast
+    exact I.height_le_spanRank_toENat hI
+  · exact Cardinal.ofENat_toENat_le (Submodule.spanRank I)
+
+instance Ideal.finiteHeight_of_isNoetherianRing (I : Ideal R) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:257]: Could you please add the corollary:
```
instance [IsNoetherianRing R] [IsLocalRing R] : FiniteRingKrullDim R :=
  sorry
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 32]
```diff
@@ -0,0 +1,286 @@
...
+    I.FiniteHeight := Ideal.finiteHeight_iff_lt.mpr <| Or.elim (em (I = ⊤)) Or.inl <|
+  fun h ↦ Or.inr <| (lt_of_le_of_lt (I.height_le_spanFinrank h) (ENat.coe_lt_top _))
+
+lemma exists_spanRank_eq_and_height_eq (I : Ideal R) (hI : I ≠ ⊤) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:261]:
```suggestion
lemma Ideal.exists_spanRank_eq_and_height_eq (I : Ideal R) (hI : I ≠ ⊤) :
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 33]
```diff
@@ -0,0 +1,286 @@
...
+    le_antisymm (Ideal.height_mono hJ₁) hJ₃⟩
+  · convert hJ₂
+    exact Cardinal.ofENat_eq_nat.mpr (ENat.coe_toNat (I.height_ne_top hI)).symm
+  · exact Cardinal.ofENat_le_ofENat_of_le hJ₃
+  · rintro rfl
+    exact hI (top_le_iff.mp hJ₁)
+
+/-- In a commutative Noetherian ring `R`, a prime ideal `p` has height no greater than `n` if and
+only if it is a minimal ideal over some ideal generated by no more than `n` elements. -/
+lemma Ideal.height_le_iff_exists_minimalPrimes (p : Ideal R) [p.IsPrime]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:276]: I think the following version would be useful:
```
lemma Submodule.FG.finite_generators {M : Type*} [AddCommMonoid M] [Module R M]
    {p : Submodule R M} (hp : p.FG) :
    p.generators.Finite := by
  rw [← Cardinal.lt_aleph0_iff_set_finite, Submodule.generators_card]
  exact spanRank_finite_iff_fg.mpr hp

/-- If `p` is a prime in a Noetherian ring `R`, there exists a `p`-primary ideal `I`
spanned by `p.height` elements. -/
lemma Ideal.exists_finset_card_eq_height_of_isNoetherianRing
    (p : Ideal R) [p.IsPrime] : ∃ (I : Ideal R) (s : Finset R),
      p ∈ I.minimalPrimes ∧ Ideal.span s = I ∧ s.card = p.height := by
  obtain ⟨I, hI, hr⟩ := (p.height_le_iff_exists_minimalPrimes <| p.height).mp le_rfl
  have hs : I.generators.Finite := (IsNoetherian.noetherian I).finite_generators
  refine ⟨I, hs.toFinset, hI, (by simpa using I.span_generators), ?_⟩
  rw [← Set.ncard_eq_toFinset_card (hs := hs), (IsNoetherian.noetherian I).generators_ncard]
  refine le_antisymm ?_ ?_
  · rw [Submodule.fg_iff_spanRank_eq_spanFinrank.mpr (IsNoetherian.noetherian I)] at hr
    exact Cardinal.nat_le_ofENat.mp hr
  · convert_to p.height ≤ I.spanRank.toENat
    · symm
      simpa [Submodule.fg_iff_spanRank_eq_spanFinrank] using (IsNoetherian.noetherian I)
    · exact I.height_le_spanRank_toENat_of_mem_minimal_primes _ hI
```
but it's also fine to leave this to a follow-up PR.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 34]
```diff
@@ -0,0 +1,286 @@
...
+    dsimp [IsLocalization.orderEmbedding] at hx
+    rwa [Ideal.mem_comap, f.map_add, f.map_mul, Ideal.add_mem_iff_right _
+      (Ideal.pow_le_pow_right n.le_succ hy), mul_comm, Ideal.unit_mul_mem_iff_mem] at hx
+    refine IsLocalization.map_units (M := q.primeCompl) _ ⟨_, ?_⟩
+    show Submodule.IsPrincipal.generator I ∉ (↑q : Set R)
+    rw [← Set.singleton_subset_iff, ← Ideal.span_le, Ideal.span_singleton_generator]
+    exact fun e ↦ h₂.not_le (hp.2 ⟨h₁, e⟩ h₂.le)
+
+/-- **Krull's Hauptidealsatz**: In a commutative Noetherian ring `R`,
+  any prime ideal that is minimal over a principal ideal has height at most 1. -/
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:91]: I think "Krull's hauptidealsatz" is the most common form I have seen in English sources.

[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:91]: This is a strange mixture of German and English, I would then rather write "Krulls Hauptidealsatz" (without the `'`, which does not exist in German)

[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:91]: I think the idea of it is like "Hilbert's nullstellensatz".

File: docs/1000.yaml [hunk 35]
```diff
@@ -2391,6 +2391,9 @@ Q3527233:
 
 Q3527241:
   title: Krull's principal ideal theorem
+  decl: Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes
+  authors: Andrew Yang
+  date: 2025
```
[the remark this answers is not in the document]
Comment (erdOne) [reply docs/1000.yaml:2396]: According to the commit history of the report it is 2023.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean (hunk 34 above)
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:91]: (which I dislike for the same reason)

[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:91]: Thanks for the suggestions! The suggestions all made sense to me, so I used English versions as the primary names and the German version is put in "also known as .." subclause, like:
```
/-- **Krull's principal ideal theorem** (also known as **Krullscher Hauptidealsatz**) :
  In a commutative Noetherian ring `R`, any prime ideal that is minimal over a principal ideal
  has height at most 1. -/
```

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean (hunk 33 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:288]: Thanks for the lemmas! I added them to `Mathlib.Algebra.Module.SpanRank` and this file respectively.

File: docs/1000.yaml (hunk 35 above)
[the remark this answers is not in the document]
Comment (xyzw12345) [reply docs/1000.yaml]: Fixed now!

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 36]
```diff
@@ -209,6 +209,30 @@ theorem Ideal.primeHeight_eq_ringKrullDim_iff [FiniteRingKrullDim R] [IsLocalRin
...
+lemma Ideal.height_le_iff_covBy {p : Ideal R} {n : ℕ} [p.IsPrime] [IsNoetherianRing R] :
+    p.height ≤ n ↔ ∀ q : Ideal R, q.IsPrime → q < p →
+      (∀ q' : Ideal R, q'.IsPrime → q < q' → ¬ q' < p) → q.height < n := by
+  rw [Ideal.height_le_iff]
+  constructor
+  · intro H q hq e _
+    exact H q hq e
+  · intro H q hq e
+    have := (OrderEmbedding.subtype (fun I : Ideal R ↦ I.IsPrime)).dual.wellFounded wellFounded_lt
+    haveI := IsStronglyCoatomic.of_wellFounded_gt this (α := { I : Ideal R // I.IsPrime })
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/Height.lean:231]: This instance actually already exists in Mathlib. Thanks for pointing that out!

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 37]
```diff
@@ -346,6 +346,18 @@ end
 
 end PrincipalIdealRing
 
+section PrincipalIdeal
+
+instance {R : Type*} [Semiring R] {x : R} : (Ideal.span {x}).IsPrincipal :=
+  ⟨x, rfl⟩
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:352]: Sure! I added the `Submodule` version, and that version goes into `Mathlib.LinearAlgebra.Span.Defs`, right after the definition of `Submodule.IsPrincipal`. The `Ideal` version now goes into `Mathlib.RingTheory.Ideal.Span`. But the lemma below cannot go into that file, since it requires `Ideal.map` which is defined in `Mathlib.RingTheory.Ideal.Maps` (which imported `Mathlib.RingTheory.Ideal.Span`). Since the lemma below can be seen as how the property of being principal transfers under `Ideal.map`, I thought that it can be put into `Mathlib.RingTheory.Ideal.Maps`.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 38]
```diff
@@ -0,0 +1,320 @@
...
+  In a commutative Noetherian ring `R`, any prime ideal that is minimal over an ideal generated
+  by `n` elements has height at most `n`. -/
+lemma Ideal.height_le_spanRank_toENat_of_mem_minimal_primes
+    (I : Ideal R) (p : Ideal R) (hp : p ∈ I.minimalPrimes) :
+    p.height ≤ I.spanRank.toENat := by
+  classical
+  rw [I.spanRank_toENat_eq_iInf_finset_card]
+  apply le_iInf
+  rintro ⟨s, hs, hs'⟩
+  induction hn : hs.toFinset.card using Nat.strong_induction_on generalizing R with
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:118]: I fell down a rabbit hole, because I think the structure of the proof could be improved, pushed a commit here: 3d4ba4bb32bed943c3319d041ce402929da28e84. Main changes:

- I put the reduction to the local ring case behind a `wlog`, this cleans up a lot of the noise.
- The induction step invoking the principal ideal theorem went into a separate lemma.
- The unfolding of the radical is now abstracted away in a helper lemma.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 39]
```diff
@@ -0,0 +1,320 @@
...
+  refine (Ideal.comap_le_comap_iff_of_surjective _ Ideal.Quotient.mk_surjective _ _).mp ?_
+  rw [nilradical, Ideal.comap_radical, Ideal.zero_eq_bot, ← RingHom.ker_eq_comap_bot,
+    Ideal.mk_ker, IsLocalRing.eq_maximalIdeal (Ideal.comap_isMaximal_of_surjective
+    _ (Ideal.Quotient.mk_surjective (I := I))), Ideal.radical_eq_sInf, le_sInf_iff]
+  exact fun J ⟨hJ₁, hJ₂⟩ => hp.2 ⟨hJ₂, hJ₁⟩ (IsLocalRing.le_maximalIdeal hJ₂.ne_top)
+
+lemma Ideal.height_le_one_of_isPrincipal_of_mem_minimalPrimes_of_isLocalRing
+    [IsLocalRing R] (I : Ideal R) [I.IsPrincipal]
+    (hp : (IsLocalRing.maximalIdeal R) ∈ I.minimalPrimes) :
+    (IsLocalRing.maximalIdeal R).height ≤ 1 := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:53]: I've reviewed this and found nothing that can be golfed :)

File: Mathlib/RingTheory/Ideal/Span.lean [hunk 40]
```diff
@@ -257,3 +257,10 @@ theorem ker_toSpanSingleton_one_sub_eq_span :
   rw [ker_toSpanSingleton_eq_span he.one_sub, sub_sub_cancel]
 
 end IsIdempotentElem
+
+section PrincipalIdeal
+
+instance {R : Type*} [Semiring R] {x : R} : (Ideal.span {x}).IsPrincipal :=
+  ⟨x, rfl⟩
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/Span.lean:264]: Yes, at least on my computer :) So I think probably we can have this.

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean (hunk 38 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean]: Thanks! I merged your branch to this branch now.

Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean]: Where do you think we can move this lemma?
```
lemma Ideal.exists_subset_radical_span_sup_span_of_subset_radical_sup (s : Set R) (I J : Ideal R)
    (hs : s ⊆ (I ⊔ J).radical) :
    ∃ (t₁ t₂ : Set R), Cardinal.mk t₁ ≤ Cardinal.mk s ∧ Cardinal.mk t₂ ≤ Cardinal.mk s ∧
      t₁ ⊆ I ∧ t₂ ⊆ J ∧ s ⊆ (span t₁ ⊔ span t₂).radical := by
```
I loogled for files that mentioned `Ideal.radical`, and the reasonable place to put this seems to be `Mathlib.RingTheory.Ideal.Operations`, which is where `Ideal.radical` is defined. But when I added the import of `Mathlib.SetTheory.Cardinal.Basic` to this file, compiling reports an error on `assert_not_exists Cardinal` in `Mathlib.Algebra.Algebra.Subalgebra.Operations`.

So for the time being, I just left it in the `KrullsHeightThm` file, but I'm really hoping that you can suggest somewhere else we can put it.

Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean]: One option would be to "unabstract" the lemma, by saying there exist maps `t₁ : s -> R` and replace `t₁` by `Set.range t₁`. Then you don't need the `Cardinal.mk` bit (and probably the application would even be slightly shorter).

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 41]
```diff
@@ -1278,3 +1278,22 @@ end Submodule
 instance {R} [Semiring R] : NonUnitalSubsemiringClass (Ideal R) R where
   mul_mem _ hb := Ideal.mul_mem_left _ _ hb
 instance {R} [Ring R] : NonUnitalSubringClass (Ideal R) R where
+
+section
+
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Operations.lean:1283]: I don't think you need the `section` here?

**Review by chrisflav — APPROVED** [review]
Thanks a lot for doing this porting saga, this looks good to me! @alreadydone are you happy with this?

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 41 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/Operations.lean]: Fixed now!

**Comment by chrisflav** [comment]
Since Junyan did not object until now, LGTM! Thanks again!

maintainer merge

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors merge

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 42]
```diff
@@ -0,0 +1,307 @@
...
+      Localization.AtPrime.comap_maximalIdeal] at this
+  · rwa [IsLocalization.minimalPrimes_map p.primeCompl (Localization.AtPrime p) I,
+      Set.mem_preimage, Localization.AtPrime.comap_maximalIdeal]
+
+/-- If `q < p` are prime ideals such that `p` is minimal over `span (s ∪ {x})` and
+`t` is a set contained in `q` such that `s ⊆ √span (t ∪ {x})`, then `q` is minimal over `span t`.
+This is used in the induction step for the proof of Krull's height theorem. -/
+theorem Ideal.mem_minimalPrimes_span_of_mem_minimalPrimes_span_insert {q p : Ideal R} [q.IsPrime]
+    [p.IsPrime] (hqp : q < p) (x : R) (s : Set R) (hp : p ∈ (span (insert x s)).minimalPrimes)
+    (t : Set R) (htq : t ⊆ q) (hsp : s ⊆ (span (insert x t)).radical) :
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:116]: The extensive use of `(span _).minimalPrimes` also makes me think that we should generalize [Ideal.minimalPrimes](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/MinimalPrime/Basic.html#Ideal.minimalPrimes) to allow an arbitrary set in place of `I : Ideal R`.

**Comment by alreadydone** [comment]
Opened #24827
